US07390910B2
N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-3-(ethoxysulfonyl)-1-isopropylprop-2-enyl]-N1,3-dimethyl-L-valinamide
To a solution of ethyl diethylphosphorylmethanesulfonate (260 mg, 1.0 mmol) in anhydrous THF (3 mL) at −78° C. is added n-butyllithium (in hexanes, 0.44 mL, 1.1 mmol). After stirring for 20 min at −78° C., a solution of N-{1-[(1-Formyl-2-methyl-propyl)-methyl-carbamoyl]-2,2-dimethyl-propyl}-3-methyl-2-methylamino-3-phenyl-butyramide (1.0 mmol) in anhydrous THF (7 mL), which is freshly prepared as described in Reference Example 12, is added. The reaction mixture is stirred at −78° C. for additional 30 min, and then gradually warmed to room temperature. After 40 h, the reaction is quenched with water and extracted with CH2Cl2. The combined organic layers are washed with brine, dried (Na2SO4), filtered and concentrated. The residue is chromatographed on a silica gel column, eluting with 4:1 CH2Cl2/EtOAc to give 160 mg (31%) of the title compound as a yellow oil. HRMS (ESI) calcd for C27H45N3O5S [M+H] 524.3153, found 524.3157.

reactant | ethyl diethylphosphorylmethanesulfonate | 1.0 mmol, 260 mg | C(C)P(=O)(CC)CS(=O)(=O)OCC | C7H17O4PS
reactant | n-butyllithium | 1.1 mmol, 0.44 mL | C(CCC)[Li]
reactant | N-{1-[(1-Formyl-2-methyl-propyl)-methyl-carbamoyl]-2,2-dimethyl-propyl}-3-methyl-2-methylamino-3-phenyl-butyramide | 1.0 mmol | C(=O)C(C(C)C)N(C(=O)C(C(C)(C)C)NC(C(C(C)(C1=CC=CC=C1)C)NC)=O)C | C24H39N3O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-3-(ethoxysulfonyl)-1-isopropylprop-2-enyl]-N1,3-dimethyl-L-valinamide | 160 mg, 31% | CN[C@@H](C(C1=CC=CC=C1)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C\S(=O)(=O)OCC)C(C)C | C27H45N3O5S
